US06107458
To a suspension of sodium hydride (60% suspension in mineral oil) (0.296 g) in N,N-dimethylformamide (14 ml) was added 1,2,4-triazole (0.511 g) and 4-[4-(8-bromooctyloxy)phenyl]benzoic acid (1 g), and was stirred for 5 hours at 120° C. The reaction mixture was added to a mixture of water and ethyl acetate, and adjusted to pH 2.5 with conc. hydrochloric acid. The organic layer was taken and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give 4-[4-[8-(1,2,4-Triazol-1-yl)octyloxy]phenyl]benzoic acid (0.81 g).

reactant | sodium hydride | 0.296 g | [H-].[Na+]
reactant | 1,2,4-triazole | 0.511 g | N1N=CN=C1 | C2H3N3
reactant | 4-[4-(8-bromooctyloxy)phenyl]benzoic acid | 1 g | BrCCCCCCCCOC1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C21H25BrO3
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-[4-[8-(1,2,4-Triazol-1-yl)octyloxy]phenyl]benzoic acid | 0.81 g | N1(N=CN=C1)CCCCCCCCOC1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C23H27N3O3
